US04916149
By using the process of Example 1(B), 28 g of 4-benzoyl-2-nitrophenylhydrazine, 272 ml of dioxane, 5.8 g of anhydrous sodium carbonate dissolved in 110 ml of water and 27.6 g of 4-chloro-3-sulfamoylbenzoyl chloride dissolved in 217 ml of dioxane were used as starting materials to yield 29.1 g (61%) of 4-benzoyl-2-nitro-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine, m.p.: 148° C. after recrystallization from methanol.

reactant | 4-benzoyl-2-nitrophenylhydrazine | 28 g | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)NN)[N+](=O)[O-] | C13H11N3O3
reactant | sodium carbonate | 5.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 27.6 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
solvent | water | 110 ml | O | H2O
solvent | dioxane | 217 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 272 ml | O1CCOCC1 | C4H8O2
product | 4-benzoyl-2-nitro-N-(4'-chloro-3'-sulfamoylbenzoyl)phenylhydrazine | 29.1 g, 61% | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)N(N)C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)[N+](=O)[O-] | C20H15ClN4O6S
